US08633173B2
N-{3-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}-8-[4-(methylsulfonyl)phenyl][1,2,4]triazolo[1,5-a]pyridin-2-amine was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75.0 mg, 0.260 mmol) and 4-(3-bromo-benzyl)-thiomorpholine 1,1-dioxide (90.0 mg, 0.296 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (29.0 mg, 0.0530 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a pale yellow foam (0.046 g, 34%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.52 (dd, J=6.7, 1.0 Hz, 1H), 8.23 (d, J=8.H Hz, 2H), 8.09 (d, J=8.4 Hz, 2H), 7.68 (dd, J=7.4, 0.9 Hz, 1H), 7.62-7.60 (m, 1H), 7.48 (dd, J=8.1, 1.8 Hz, 1H), 7.32 (t, J=7.7 Hz, 1H), 7.05 (t, J=7.1 Hz, 1H), 6.97-6.93 (m, 2H), 3.70 (s, 2H), 3.13-3.01 (m, 11H). MS=512 (MH)+.

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.260 mmol, 75.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 4-(3-bromo-benzyl)-thiomorpholine 1,1-dioxide | 0.296 mmol, 90.0 mg | BrC=1C=C(CN2CCS(CC2)(=O)=O)C=CC1 | C11H14BrNO2S
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0530 mmol, 29.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-{3-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}-8-[4-(methylsulfonyl)phenyl][1,2,4]triazolo[1,5-a]pyridin-2-amine | O=S1(CCN(CC1)CC=1C=C(C=CC1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1)=O | C24H25N5O4S2
